Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
DVT
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: 
 
___ is a ___ yo woman with history of endometriosis and 
chronic headaches who was recently diagnosed with DVT in the 
outpatient setting 1 week prior who is now admitted for DVT. She 
indicates that over the past 8 weeks she has been having 
intermittent leg pain worse with exertion, this was first in her 
calf and she though she pulled a muscle but then began having 
knee pain and thigh pain which progressed over the next couple 
weeks. She presented to her PCP who initially prescribed her 
RICE for muscle strain but in follow up for recurrent symptoms 
D-Dimer was performed, was elevated and ___ confirmed DVT. She 
was prescribed Rivaroxoban which she started ___ 
(diagnosed ___. Over the next week she had 
intermittent headaches which she attributed to Rivaroxoban, 
called her PCP who had her come in for CT head which was 
negative and while in her PCP office began complaining of left 
arm pain so she was referred to the ED for CTA chest.
 
In the ED, initial vitals were largely normal, labs were normal 
and CTA chest was negative. Repeat LENIs revealed left peroneal 
vein DVT involvement not seen on original US completed in PCP 
office so she was admitted for failed outpatient therapy. She 
was started on Heparin drip and admitted to medicine.
 
On the floor, she is anxious, timid and upset but otherwise 
feels well. She denies LLE edema, pain of LLE at rest of with 
exertion. She denies chest pain, pressure, shortness of breath 
or DOE. She reports her headache is bifrontal, throbbing in 
nature and improved with ibuprofen though Tylenol does not work. 
This is a typical headache for her tension headaches but is 
distinctly different than migraine headaches. 
 
Past Medical History:
Endometriosis
Facial Acne 
Chronic headaches
Chronic Migraines
 
Social History:
___
Family History:
No family history of blood clots
 
Physical Exam:
Admission and Discharge Exam:
Vitals: 98.1 PO 120 / 85 L Sitting 60 18 98% RA  
Pain Scale: ___
General: Patient appears anxious, frustrated and tearful. She 
has a childish affect and exhibits odd behavior, becoming upset, 
crying and inconsolable when discussing stopping her OCPs. She 
also initially refused admission so she could go home and get 
her face wash. Otherwise though she appears well
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP low, no LAD appreciated
Lungs: Clear to auscultation bilaterally, moving air well and 
symmetrically, no wheezes, rales or rhonchi appreciated  
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality, no murmurs, rubs or gallops appreciated
Abdomen: soft, non-tender, non-distended, normoactive bowel 
sounds throughout, no rebound or guarding
Ext: Warm, well perfused, full distal pulses, no clubbing, 
cyanosis or edema. No calf pain, tenderness or palpable 
abnormalities. Legs appear symmetric without ecchymoses, 
hyperpigmentation, petechiae or asymmetric swelling    
Neuro: CN2-12 grossly in tact, motor and sensory function 
grossly intact in bilateral UE and ___, symmetric

 
Pertinent Results:
Admission Labs
___ 06:25AM BLOOD WBC-5.9 RBC-4.29 Hgb-13.2 Hct-39.9 MCV-93 
MCH-30.8 MCHC-33.1 RDW-12.2 RDWSD-41.8 Plt ___
___ 06:25AM BLOOD Neuts-51.6 ___ Monos-6.9 Eos-0.3* 
Baso-0.7 Im ___ AbsNeut-3.05 AbsLymp-2.38 AbsMono-0.41 
AbsEos-0.02* AbsBaso-0.04
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-83 UreaN-12 Creat-1.0 Na-135 
K-4.1 Cl-100 HCO3-22 AnGap-17
___ 06:25AM BLOOD Calcium-9.6 Phos-4.2 Mg-1.9
 
Imaging:
CTA Chest: No evidence of pulmonary embolism or aortic 
abnormality
 
LENIs: 
1. Occlusive deep venous thrombosis involving the left popliteal 
vein with nonocclusive thrombus within the left posterior tibial 
and left peroneal
veins. 
2.  Right lower extremity not evaluated. 
 
UENI:
No evidence of deep vein thrombosis in the left upper extremity

___:
Findings consistent with acute deep venous thrombosis involving 
the left popliteal vein and proximal left posterior tibial vein
    
CT Head ___: Negative, normal head CT

 
Brief Hospital Course:
___ woman with history endometriosis, acne on OCPs and recent 
DVT of LLE presents to the ED with vague complaints of left arm 
pain admitted to medicine for "worsening DVT" 
 
# DVT
Patient was admitted for worsening DVT based on US imaging. On 
review ___ from ___ the only difference between the two was 
visualized DVT in peroneal veins on ___ not seen at ___. 
However, ___ indicated poor visualization of peroneal 
veins so the studies are not equivalent anyway. Clinically there 
was no evidence of worsening DVT. Additionally, according to 
Circulation article entitled "Natural History of Venous 
Thromboembolism" ___ of patients have interval progression of 
DVT within ___ days of initiation of therapy. The patient is 
only 6 days out of therapy well within window to observe 
interval progression. As such, this does not represent failed 
outpatient therapy. Heparin drip started in the ED was 
discontinued and she was restarted on Rivaroxoban. I spoke to 
patients PCP's covering physician who agreed with the plan. I 
confirmed patient has Rivaroxoban at home which she will 
continue. Review of ___ records indicate she is heterozygous 
for Factor V leiden mutation which in setting of OCP use are 
likely cause of unprovoked DVT. She was counseled to avoid OCP 
use due to 2x fold increased risk of DVT
   
# Endometriosis
# Facial Acne
Patient counseled to discontinue OCPs given 2 fold increased 
risk of DVT while on OCPs. She became visually upset about 
discontinuation of OCPs, in fact asked if she can stay on 
lifelong anticoagulation so she can continue OCPs. She is 
worried about facial acne worsening while on the medication. We 
discussed this is not an option. She will follow up with PCP and 
OB/GYN for ongoing management. Continued Spironolactone
 
# Headaches
Chronic, not migraine related but similar to chronic tension 
headaches. CT head negative for bleed at PCP office day prior to 
admission. This improved with one dose of NSAID in house. I 
counseled her to avoid NSAIDs given risk of bleeding while on 
Rivaroxoban. Continue Topamax. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Topiramate (Topamax) 100 mg PO DAILY 
2. Zomig (ZOLMitriptan) 5 mg oral PRN 
3. Spironolactone 100 mg PO DAILY 
4. Rivaroxaban 15 mg PO BID 
5. Cyclobenzaprine 5 mg PO TID:PRN Muscle relax 

 
Discharge Medications:
1.  Cyclobenzaprine 5 mg PO TID:PRN Muscle relax  
2.  Rivaroxaban 15 mg PO BID  
3.  Spironolactone 100 mg PO DAILY  
4.  Topiramate (Topamax) 100 mg PO DAILY  
5.  Zomig (ZOLMitriptan) 5 mg oral PRN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Active:
- DVT
 
Chronic:
- Endometriosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,
 
It was a pleasure caring for you during this hospitalization. 
You were admitted to ___ with left arm pain and imaging was 
negative for blood clot in your arm or your lungs. Ultrasound of 
your leg showed persistent DVT but we do not think this required 
a change to your anticoagulation.
 
Our recommendation is for you to STOP taking oral contraceptive 
pills. Please follow up with your primary care physician and 
your hematologist next week.
 
Please refrain from heavy exertional activity until follow up 
with Hematology next week.
 
Followup Instructions:
___